plaintext
* BJT Circuit
VCC N001 0 DC 15
Vin1 N002 Vin_ground DC 0
RL1 N001 N003 1k
RS1 N002 N004 100
Q1 N004 N003 Vin_ground Qtype
* NMOS Circuit
VDD N002 0 DC 15
Vin2 N005 Vin_ground DC 0
RL2 N002 N006 1k
? Missing component
M1 N007 N006 Vin_ground 0 NMOSmodel
.model Qtype NPN (IS=1e-14 BF=100)
.model NMOSmodel NMOS (LEVEL=1 VTO=1)
.end
